US06278013B1
8-Cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
690 mg (2.25 mmol) of 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid are stirred with 312 mg (2.47 mmol) of (1S,6S)-2,8-diazabicyclo[4.3.0]nonane and 504 mg (4.50 mmol) of 1,4-diazabicyclo[2.2.2]-octane (DABCO) in a mixture of 6.6 ml of dimethylformamide and 6.6 ml of acetonitrile at room temperature overnight. All the volatile components are removed in vacuo, the residue is taken up in water and the resulting solution is brought to pH 7 with dilute hydrochloric acid. The precipitate formed is filtered off with suction, the filtrate is extracted with methylene chloride and the combined organic phases are dried with sodium sulfate and concentrated in vacuo.

reactant | 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.25 mmol, 690 mg | ClC1=C(C=C2C(C(=CN(C2=C1C#N)C1CC1)C(=O)O)=O)F | C14H8ClFN2O3
reactant | (1S,6S)-2,8-diazabicyclo[4.3.0]nonane | 2.47 mmol, 312 mg | [C@@H]12NCCC[C@H]2CNC1 | C7H14N2
reactant | 1,4-diazabicyclo[2.2.2]-octane | 4.50 mmol, 504 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | dimethylformamide | 6.6 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 6.6 ml | C(C)#N | C2H3N
product | 8-Cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2CCCN[C@@H]2C1 | C21H21FN4O3
